US06632824B2
3-(2-Naphthyl)-8-azabicyclo[3.2.1]octane
To 313 mg (1.33 mmol) 3-naphthalen-2-yl-8-aza-bicyclo[3.2.1]oct-2-ene in 10 mL EtOAc is added 100 mg of 10% Pd/C. This mixture is placed under 40 psi of H2 and shaken in a Parr hydrogenator for 47 h. The resulting mixture is then filtered through celite and evaporated to give 197 mg (0.83 mmol, a 62% yield) of the title compound as a white solid. mp: 189-194° C.; MS (ES) m/z 238 (MH)+.

reactant | 3-naphthalen-2-yl-8-aza-bicyclo[3.2.1]oct-2-ene | 1.33 mmol, 313 mg | C1=C(C=CC2=CC=CC=C12)C1=CC2CCC(C1)N2 | C17H17N
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-(2-Naphthyl)-8-azabicyclo[3.2.1]octane | 62% yield | C1=C(C=CC2=CC=CC=C12)C1CC2CCC(C1)N2 | C17H19N
